*#######################################################################
*
* Copyright 2023 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
*distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
*#######################################################################

**ptap1 (TIE SUB)
* In order to have consistency between the netlisted device format 
* the w and l parameters are defined but not used.
* The value of R is calculated by schematic capture tool.
.subckt ptap1 1 2 
.param R=262.8 w=0.78e-6 l=0.78e-6
R1 1 2 R=R
.ends ptap1

**ntap1 (TIE WELL)
* In order to have consistency between the netlisted device format 
* the w and l parameters are defined but not used.
* The value of R is calculated by schematic capture tool.
.subckt ntap1 1 2 
.param R=262.8 w=0.78e-6 l=0.78e-6
R1 1 2 R=R
.ends ntap1

* Parasitic R/C models
* aluminum: prozess tol. res_rpara
* value is taken from extraction routine
.subckt Rparasitic 1 2
.param R=0 w=0 l=0 TC1=0.00353 TC2=0
R1 1 2 R=r*res_rpara TC1=TC1 TC2=TC2
.ends Rparasitic

.subckt rsil 1 2 bn
.param w=0.5e-6 l=0.5e-6 mm_ok=1 b=0 m=1 trise=0 sw_et=0
+postsim=0
+kappa=1.85
+ps=0.18e-6
+weff=w+0.01e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+rzspec=4.5e-6
+lhead=0.86e-6
+cax=90e-18
+cpx=25e-18
+ax=175e-18*(1-1/(1.5*leff*1e6+1))/cax
+px=115e-18/cpx
+a0=0.5*(leff+lhead)*w-(postsim>0)*w*ax*1e-6
+a=(a0>0)*a0
+p0=leff+lhead+w-(postsim>0)*px*1e-6
+p=(p0>0)*p0
+rshspec=7
+rqrc=4.5e-6
+rz=rzspec/w-(postsim>0)*rqrc/w

NR1 1 bn 2 dt rmod_rsil L=leff W=weff m=m
+a1=a a2=a
+p1=p p2=p
+c1=1 c2=1
+trise=trise
+sw_et=sw_et
+sw_mman=1
+nsmm_rsh=1 ; number of standard deviations for rsh
+nsmm_w=1   ; number of standard deviations for w
+nsmm_l=1   ; number of standard deviations for l

.model rmod_rsil r3_cmc
+rsh=rsh_rsil
+ecrit=1000
+dfinf=1e-4
+dp=1000
+xw=0.01
+rc=rz
+ca=cax
+cp=cpx
+tc1=3100e-6
+tc2=0.3e-6
+tc1rc=3100e-6
+tc2rc=0.3e-6
+gth0=1e-12
+gtha=6e-6
+gthp=2e-6
+gthc=1e-12
+cth0=0
+cthp=0
+ctha=594e-15
+cthc=0
+kfn=2.812e-12
+afn=1.607
+bfn=1.267
+smm_rsh=1.2 ; relative standard deviation for rsh [%]
+smm_w=0.01  ; absolute standard deviation for w [um]
+smm_l=0.01  ; absolute standard deviation for l [um]

.ends rsil

.subckt rhigh 1 2 bn
.param w=0.5e-6 l=0.96e-6 mm_ok=1 b=0 trise=0 m=1 sw_et=0
+postsim=0
+kappa=1.85
+ps=0.18e-6
+weff=w-0.04e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+lhead=0.86e-6
+rzspec=80e-6
+cax=90e-18
+cpx=25e-18
+ax=175e-18*(1-1/(1.5*leff*1e6+1))/cax
+px=115e-18/cpx
+a0=0.5*(leff+lhead)*w-(postsim>0)*w*ax*1e-6
+a=(a0>0)*a0
+p0=leff+lhead+w-(postsim>0)*px*1e-6
+p=(p0>0)*p0
+rshspec=1360
+rqrc=4.5e-6
+rz=rzspec/w-(postsim>0)*rqrc/w

NR1 1 bn 2 dt rmod_rhigh L=leff W=weff m=m
+a1=a a2=a
+p1=p p2=p
+c1=1 c2=1
+trise=trise
+sw_et=sw_et
+sw_mman=1
+nsmm_rsh=1 ; number of standard deviations for rsh
+nsmm_w=1   ; number of standard deviations for w
+nsmm_l=1   ; number of standard deviations for l

.model rmod_rhigh r3_cmc
+rsh=rsh_rhigh
+ecrit=1000
+dfinf=1e-4
+dp=1000
+xw=-0.04
+rc=rz
+ca=cax
+cp=cpx
+tc1=-2300e-6
+tc2=2.1e-6
+tc1rc=-2300e-6
+tc2rc=2.1e-6
+gth0=1e-12
+gtha=6e-6
+gthp=2e-6
+gthc=1e-12
+cth0=0
+cthp=0
+ctha=594e-15
+cthc=0
+kfn=5.205e-10
+afn=1.935
+bfn=0.9086
+smm_rsh=5  ; relative standard deviation for rsh [%]
+smm_w=0.01 ; absolute standard deviation for w [um]
+smm_l=0.01 ; absolute standard deviation for l [um]

.ends rhigh

*.subckt rppd 1 2 bn
.subckt rppd 1 2
.param w=0.5e-6 l=0.5e-6 mm_ok=1 b=0 ps=0.18e-6 trise=0 m=1 sw_et=0
+postsim=0
+kappa=1.85
+weff=w+0.006e-6
+leff=(b+1)*l+(2/kappa*weff+ps)*b
+lhead=0.86e-6
+rzspec=35e-6
+cax=90e-18
+cpx=25e-18
+ax=175e-18*(1-1/(1.5*leff*1e6+1))/cax
+px=115e-18/cpx
+a0=0.5*(leff+lhead)*w-(postsim>0)*w*ax*1e-6
+a=(a0>0)*a0
+p0=leff+lhead+w-(postsim>0)*px*1e-6
+p=(p0>0)*p0
+rqrc=4.5e-6
+rz=rzspec/w-(postsim>0)*rqrc/w

NR1 1 bn 2 dt res_rppd L=leff W=weff m=m
+a1=a a2=a
+p1=p p2=p
+c1=1 c2=1
+trise=trise
+sw_et=sw_et
+sw_mman=1
+nsmm_rsh=1 ; number of standard deviations for rsh
+nsmm_w=1   ; number of standard deviations for w
+nsmm_l=1   ; number of standard deviations for l

.model res_rppd r3_cmc
+rsh=rsh_rppd
+ecrit=1000
+dfinf=1e-4
+dp=1000
+xw=0.006
+rc=rz
+ca=cax
+cp=cpx
+tc1=170e-6
+tc2=0.4e-6
+tc1rc=-950e-6
+gth0=1e-12
+gtha=6e-6
+gthp=2e-6
+gthc=1e-12
+cth0=0
+cthp=0
+ctha=594e-15
+cthc=0
+kfn=4.601e-11
+afn=1.886
+bfn=0.9963
+smm_rsh=1.5 ; relative standard deviation for rsh [%]
+smm_w=0.01  ; absolute standard deviation for w [um]
+smm_l=0.01  ; absolute standard deviation for l [um]

.ends rppd
